US08168634B2
1-(4-Amino-3-iodophenyl)ethanone
To a stirred suspension of CaCO3 (4.5 g, 45.27 mmol) in H2O (15 mL) was added a solution of 4-acetylaniline (4.1 g, 30.18 mmol) in MeOH (25 mL), followed by a solution of iodine monochloride (5.2 g, 31.88 mmol) in MeOH (20 mL) dropwise. The reaction was stirred at r.t. for 45 minutes, then diluted with Et2O (150 mL). The organic fraction was separated, washed with water (100 mL), then brine (100 mL), dried (Na2SO4), filtered and concentrated in vacuo to give the title compound (3.5 g, 44%) as a brown oil that was used without further purification. δH (DMSO-d6) 8.14 (1H, d, J 1.8 Hz), 7.70 (1H, dd, J 8.3 and 1.8 Hz), 6.75 (1H, d, J 8.3 Hz), 6.10 (2H, s), 2.41 (3H, s). LCMS (ES+) 261 (M)+, 283 (M+Na)+, RT 3.026 minutes (Method 4).

reactant | CaCO3 | 45.27 mmol, 4.5 g | C(=O)([O-])[O-].[Ca+2]
reactant | 4-acetylaniline | 30.18 mmol, 4.1 g | C(C)(=O)C1=CC=C(N)C=C1 | C8H9NO
reactant | iodine monochloride | 31.88 mmol, 5.2 g | ICl | ClI
solvent | H2O | 15 mL | O | H2O
solvent | MeOH | 25 mL | CO | CH4O
solvent | MeOH | 20 mL | CO | CH4O
solvent | Et2O | 150 mL | CCOCC | C4H10O
product | 1-(4-Amino-3-iodophenyl)ethanone | 3.5 g, 44% | NC1=C(C=C(C=C1)C(C)=O)I | C8H8INO
